US07745229B2
D. Synthesis of 3-azido-7-hydroxycoumarin
A mixture of 2,4-dihydroxy benzaldehyde (2.76 g, 20 mmol), N-acetylglycine (2.34 g, 20 mmol), anhydrous sodium acetate (60 mmol) in acetic anhydride (100 ml) was refluxed under stirring for 4 hours. The reaction mixture was poured onto icde to give a yellow precipitate. After filtration, the yellow solid washed with ice water before it was refluxed in a solution of concentrated HCl and ethanol (2:1, 30 ml) for 1 hour, then ice water was added to dilute the solution. The solution was then cooled in an ice bath and NaNO2 (40 mmol) was added. The mixture was stirred for 5-10 minutes and NaN3 (60 mmol) was added in portions. After stirring for another 15 minutes, the resulting precipitate was filtered off, washed with water, and dried under reduced pressure to afford a brown solid: 2.2 g (54% overall yield). The product was pure enough for further reactions. 1H NMR (DMSO-d6, 300 MHz) δ 6.74 (d, J=2.2 Hz, 1H), 6.79 (dd, J=8.4. 2.2 Hz, 1H), 7.47 (d, J=8.5 Hz, 1H), 7.56 (s, 1H). 13C NMR (DMSO-d6, 75 MHz) δ 161.0, 158.0, 153.4, 128.7, 128.5, 121.8, 114.5, 112.0, 102.7. IR (KBr): 3296 (s), 2125 (vs), 1680 (s), 1620 (m), 1321 (s). EI-HRMS m/e calculated for M+ C9H5N3O3 203.0331; found 203.0326.

reactant | 2,4-dihydroxy benzaldehyde | 20 mmol, 2.76 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | N-acetylglycine | 20 mmol, 2.34 g | C(C)(=O)NCC(=O)O | C4H7NO3
reactant | sodium acetate | 60 mmol | C(C)(=O)[O-].[Na+]
reactant | NaNO2 | 40 mmol | N(=O)[O-].[Na+]
reactant | NaN3 | 60 mmol | [N-]=[N+]=[N-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-azido-7-hydroxycoumarin | N(=[N+]=[N-])C=1C(OC2=CC(=CC=C2C1)O)=O | C9H5N3O3
